US06528525B1
(b) Ethyl 3-[4-(2-t-butoxycarbonylaminoethoxy)-3-chlorophenyl]-2-phenoxypropionate
In a similar manner to that described in Example 122, a reaction was carried out using ethyl 3-(3-chloro-4-hydroxyphenyl)-2-phenoxypropionate (761 mg), which is the product of Reference example 51(a), t-butyl 2-hydroxyethylcarbamate (0.96 g), triphenylphosphine (1.55 g) and solution of diethylazodicarboxylate in toluene (40%, 2.69 ml) and the reaction mixture was treated to afford the desired compound (1.03 g) as a colorless oil.

reactant | ethyl 3-(3-chloro-4-hydroxyphenyl)-2-phenoxypropionate | 761 mg | ClC=1C=C(C=CC1O)CC(C(=O)OCC)OC1=CC=CC=C1 | C17H17ClO4
reactant | t-butyl 2-hydroxyethylcarbamate | 0.96 g | OCCNC(OC(C)(C)C)=O | C7H15NO3
reactant | triphenylphosphine | 1.55 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | toluene | 2.69 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 3-[4-(2-t-butoxycarbonylaminoethoxy)-3-chlorophenyl]-2-phenoxypropionate | 1.03 g | C(C)(C)(C)OC(=O)NCCOC1=C(C=C(C=C1)CC(C(=O)OCC)OC1=CC=CC=C1)Cl | C24H30ClNO6
